US07795253B2
a) 2-[(4-Cyanophenyl)-(3H-imidazol-4-yl)methoxy]ethyl methanesulphonate
1.44 mmol of diisopropylethylamine and 1.20 mmol of methanesulphonyl chloride are added to a solution of 1.20 mmol of 4-[(2-hydroxyethoxy)-(3H-imidazol-4-yl)methyl]benzonitrile in 10 ml of dichloromethane at 0° C. The reaction mixture is stirred at 0° C. for 3 hours, tipped into water and extracted with dichloromethane. The combined organic phases are washed with brine, dried over sodium sulphate and evaporated. The crude title compound is used without further purification in the next stage.

reactant | diisopropylethylamine | 1.44 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 1.20 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-[(2-hydroxyethoxy)-(3H-imidazol-4-yl)methyl]benzonitrile | 1.20 mmol | OCCOC(C1=CC=C(C#N)C=C1)C=1NC=NC1 | C13H13N3O2
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-[(4-Cyanophenyl)-(3H-imidazol-4-yl)methoxy]ethyl methanesulphonate | CS(=O)(=O)OCCOC(C=1NC=NC1)C1=CC=C(C=C1)C#N | C14H15N3O4S
